US06495576B2
3-Ethoxy-4-(4-fluoro-phenylamino)-cyclobut-3-ene-1,2-dione
A solution of 4-fluoroaniline and 3,4-diethoxy-3-cyclobutene-1,2-dione in ethanol was processed as described in Example 1A to provide the title compound.

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 3-Ethoxy-4-(4-fluoro-phenylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1NC1=CC=C(C=C1)F)=O)=O | C12H10FNO3
